US07776890B2
3-(3-Fluoro-phenyl)-6-hydroxy-1H-indazole-5-carboxylic acid
A total of 96.2 mg of 3-(3-fluoro-phenyl)-6-methoxy-1H-indazole-5-carboxylic acid obtained in Production Example II-1-e was dissolved in 3.36 ml of dichloromethane, 4.0 ml of a 1.0 M solution of boron tribromide in dichloromethane was added under ice-cooling, and the mixture was stirred at room temperature for 1.5 hours. Water was added to the reaction mixture, followed by extracting with ethyl acetate. The resulting organic layer was washed brine, dried over magnesium sulfate and the solvent was evaporated, to give 84.1 mg of the crude product of the title compound.

reactant | 3-(3-fluoro-phenyl)-6-methoxy-1H-indazole-5-carboxylic acid | 96.2 mg | FC=1C=C(C=CC1)C1=NNC2=CC(=C(C=C12)C(=O)O)OC | C15H11FN2O3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | Water | O | H2O
solvent | dichloromethane | 3.36 ml | ClCCl | CH2Cl2
product | 3-(3-Fluoro-phenyl)-6-hydroxy-1H-indazole-5-carboxylic acid | 84.1 mg | FC=1C=C(C=CC1)C1=NNC2=CC(=C(C=C12)C(=O)O)O | C14H9FN2O3
